US03953490
To a solution of 3-trifluoromethylphenol (16.2 g., 0.1 mole) and 4-chlorophenyl-α-bromoacetonitrile (23.05 g., 0.1 mole) in methylene chloride (200 ml.) is added potassium carbonate (27.6 g., 0.2 mole). The reaction mixture is stirred and heated under reflux for six hours. The reaction mixture is then cooled to 25°C. and washed with water (300 ml.). The organic layer is dried over sodium sulfate, filtered and the solvent removed to afford crude (3-trifluoromethylphenoxy)(4-chlorophenyl)acetonitrile which is employed in the next step without further purification.

reactant | 3-trifluoromethylphenol | 0.1 mole, 16.2 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 4-chlorophenyl-α-bromoacetonitrile | 0.1 mole, 23.05 g | ClC1=CC=C(C=C1)C(C#N)Br | C8H5BrClN
reactant | potassium carbonate | 0.2 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (3-trifluoromethylphenoxy)(4-chlorophenyl)acetonitrile | FC(C=1C=C(OC(C#N)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9ClF3NO
